US07105507B2
Methyl 2-[3,5-Bis(trifluoromethyl)phenyl]-2-propenoate
A mixture of methyl 3,5-bis(trifluoromethyl)benzeneacetate (Description 1, 10.0 g, 35 mmol), paraformaldehyde (5.2 g, 175 mmol), potassium carbonate (14.5 g, 105 mmol) and tetra-n-butyl ammonium iodide (650 mg, 1.75 mmol) in toluene (200 mL) was heated at 80° C. for 4 hours, cooled and stirred at room temperature for 16 hours. The mixture was filtered through a bed of Celite™, washing with ethyl acetate (2×100 mL). The combined filtrates were washed with water (100 mL) and brine (100 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (100:0 increasing to 90:10) to give the title compound as a clear oil (6.2 g, 60%). 1H NMR (400 MHz, CDCl3) δ 3.86 (3H, s), 6.05 (1H, s), 6.59 (1H, s), 7.86 (1H, s) and 7.88 (2H, s).

reactant | methyl 3,5-bis(trifluoromethyl)benzeneacetate | 35 mmol, 10.0 g | FC(C=1C=C(C=C(C1)C(F)(F)F)CC(=O)OC)(F)F | C11H8F6O2
reactant | paraformaldehyde | 175 mmol, 5.2 g | C=O | CH2O
reactant | potassium carbonate | 105 mmol, 14.5 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetra-n-butyl ammonium iodide | 1.75 mmol, 650 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-[3,5-Bis(trifluoromethyl)phenyl]-2-propenoate | 6.2 g, 60% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)OC)=C)(F)F | C12H8F6O2
